US08859602B2
b) 4-(4-Amino-phenyl)-1,1-dioxo-hexahydro-1λ6-thiopyran-4-carbonitrile
A suspension of 4-(4-nitro-phenyl)-1,1-dioxo-hexahydro-1λ6-thiopyran-4-carbonitrile (205 mg, 0.731 mmol, as prepared in the previous step) in EtOH (5 mL) and water (5 mL) was treated with solid NH4Cl (204 mg, 3.66 mmol) and Fe powder (392 mg, 7.31 mmol) and heated to 50° C. for 1.5 h. The cooled mixture was filtered through Celite, and the filter cake was washed with MeOH. The solvents were evaporated in vacuo. The residue was diluted with water (30 mL) and extracted with EtOAc (2×30 mL). The combined organic layers were dried over MgSO4 and concentrated in vacuo. Silica gel chromatography of the residue on a 50-g Varian MegaBond Elut SPE column with 50% EtOAc-hexane afforded the title compound (114 mg, 62%) as a pale yellow solid. Mass spectrum (ESI, m/z): Calcd. for C12H14N2O2S, 251.1 (M+H). found 251.2.

reactant | 4-(4-nitro-phenyl)-1,1-dioxo-hexahydro-1λ6-thiopyran-4-carbonitrile | [N+](=O)([O-])C1=CC=C(C=C1)C1(CCS(CC1)(=O)=O)C#N | C12H12N2O4S
reactant | water | 5 mL | O | H2O
reactant | NH4Cl | 3.66 mmol, 204 mg | [NH4+].[Cl-]
solvent | EtOH | 5 mL | CCO | C2H6O
catalyst | Fe | 7.31 mmol, 392 mg | [Fe] | Fe
product | 4-(4-Amino-phenyl)-1,1-dioxo-hexahydro-1λ6-thiopyran-4-carbonitrile | 114 mg, 62% | NC1=CC=C(C=C1)C1(CCS(CC1)(=O)=O)C#N | C12H14N2O2S
